US09164384B2
Synthesis of 4-(2-methoxyethoxy)phenyl phenyl sulfide
A solution was prepared by combining 10 g of 4-hydroxyphenyl phenyl sulfide which had been synthesized according to the well-known formulation, 5 g of 2-chloroethyl methyl ether, 7.4 g of potassium carbonate, and 20 g of DMF. The solution was aged at 80° C. for 16 hours. The aged solution was cooled to room temperature, to which 20 g of water was added to quench the reaction. To the solution, 40 g of toluene was added for extraction. The organic layer was separated and washed with sodium hydroxide aqueous solution and water in sequence. The organic layer was concentrated in vacuum, obtaining 13 g of the target compound, 4-(2-methoxyethoxy)phenyl phenyl sulfide as oily matter. Yield 93%.

reactant | 4-hydroxyphenyl phenyl sulfide | 10 g | C1(=CC=CC=C1)SC1=CC=C(C=C1)O | C12H10OS
reactant | 2-chloroethyl methyl ether | 5 g | COCCCl | C3H7ClO
reactant | potassium carbonate | 7.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | DMF | 20 g | CN(C)C=O | C3H7NO
solvent | toluene | 40 g | C1(=CC=CC=C1)C | C7H8
solvent | water | 20 g | O | H2O
product | 4-(2-methoxyethoxy)phenyl phenyl sulfide | 13 g, Yield 93% | C1(=CC=CC=C1)SC1=CC=C(C=C1)OCCOC | C15H16O2S
